US05294734
3.95 g (23.3 mmol) of 2-(1-acetylpiperidin-4-yl)ethanol, 2.12 g (26.3 mmol) of dimethylammonium chloride and 3 ml (40 mmol) of 37% formaldehyde solution are heated at 110° C. for 2 hours with stirring. The mixture is allowed to cool and is extracted several times with diethyl ether. The organic phases are combined, washed with saturated sodium chloride solution, dried over sodium sulfate, filtered and concentrated to dryness by evaporation. 2-(1-acetylpiperidin-4-yl)propenal is obtained in the form of a yellowish oil which can be further reacted without further purification.

reactant | 2-(1-acetylpiperidin-4-yl)ethanol | 23.3 mmol, 3.95 g | C(C)(=O)N1CCC(CC1)CCO | C9H17NO2
reactant | dimethylammonium chloride | 26.3 mmol, 2.12 g | [Cl-].C[NH2+]C
reactant | formaldehyde | 40 mmol, 3 ml | C=O | CH2O
product | 2-(1-acetylpiperidin-4-yl)propenal | C(C)(=O)N1CCC(CC1)C(C=O)=C | C10H15NO2
